US04235912
1.2 g (0.0043 moles) of 6-methyl-8β-hydrazinomethyl-ergoline are dissolved in 120 ml of dry tetrahydrofuran, the solution is cooled to 0.5° C., and 0.38 g (0.0052 moles) of methyl isothiocyanate are added with stirring. The reaction mixture is stirred for one hour, and the solvent is distilled off in vacuo. The residue is subjected to chromatography on a column packed with 40 g of silica gel; a 100:0.3:20 mixture of chloroform, water and methanol is applied as eluting agent. The eluents which contain a single compound with an Rf value of 0.45 are combined and evaporated, and the dry residue is crystallized from ethanol. 1.1 g (76.8%) of 6-methyl-8β-([N'-methylthiocarbamoyl-hydrazino]-methyl)-ergoline are obtained; m.p.: 220°-221° C., [α]D20 =-45.7° (c=1, in 96% ethanol).

reactant | 6-methyl-8β-hydrazinomethyl-ergoline | 0.0043 moles, 1.2 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNN | C16H22N4
reactant | methyl isothiocyanate | 0.0052 moles, 0.38 g | CN=C=S | C2H3NS
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 6-methyl-8β-([N'-methylthiocarbamoyl-hydrazino]-methyl)-ergoline | 1.1 g, 76.8% | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNNC(NC)=S | C18H25N5S
